### PR TITLE
[Merged by Bors] - feat(Computability/ContextFreeGrammar): derivations with prefix or postfix

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 1]
```diff
@@ -142,4 +158,42 @@ lemma Derives.eq_or_tail {u w : List (Symbol T g.NT)} (huw : g.Derives u w) :
...
+    g.Produces (p ++ v) (p ++ w) := by
+  cases hvw with
+  | intro r hr => exact ⟨r, hr.left, hr.right.append_left p⟩
+
+/-- Add extra postfix to context-free producing. -/
+lemma Produces.append_right {v w : List (Symbol T g.NT)}
+    (hvw : g.Produces v w) (p : List (Symbol T g.NT)) :
+    g.Produces (v ++ p) (w ++ p) := by
+  cases hvw with
+  | intro r hr => exact ⟨r, hr.left, hr.right.append_right p⟩
```
Comment (eric-wieser) [inline Mathlib/Computability/ContextFreeGrammar.lean:173]: I think this golfs to
```suggestion
    g.Produces (v ++ p) (w ++ p) :=
  match hvw with | ⟨r, hr⟩ => ⟨r, hr.left, hr.right.append_right p⟩
```
and similarly throughout

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 2]
```diff
@@ -6,14 +6,14 @@ Authors: Martin Dvorak
...
 /-!
-# Context-Free Grammar
+# Context-Free Grammars
 
 This file contains the definition of a context-free grammar, which is a grammar that has a single
 nonterminal symbol on the left-hand side of each rule.
 
 ## Main definitions
 * `ContextFreeGrammar`: A context-free grammar.
-* `ContextFreeGrammar.language`: A language generated by a given context-free grammar.
```
Comment (eric-wieser) [inline Mathlib/Computability/ContextFreeGrammar.lean:16]: I think you want to keep both this and the new definition in the docstring

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: OK, I'll put it back.
And the definitions through which `ContextFreeGrammar.language` is defined shouldn't be here?

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:173]: When only one "case", do we put `|` on the same line?

Comment (eric-wieser) [reply Mathlib/Computability/ContextFreeGrammar.lean:173]: Not usually, but I think it's fine for golfing something trivial, in the same way that we don't usually write `foo; bar`, but sometimes do for trivial proofs.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 2 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: I am confused about the philosophy of "Main definitions". When we have a pile of definitions, do we mention only the top one? Because that was almost what was here before. I don't mind including them all tho.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 3]
```diff
@@ -142,4 +158,40 @@ lemma Derives.eq_or_tail {u w : List (Symbol T g.NT)} (huw : g.Derives u w) :
     u = w ∨ ∃ v : List (Symbol T g.NT), g.Derives u v ∧ g.Produces v w :=
   (Relation.ReflTransGen.cases_tail huw).casesOn (Or.inl ∘ Eq.symm) Or.inr
 
+/-- Add extra prefix to context-free producing. -/
+lemma Produces.append_left {v w : List (Symbol T g.NT)}
+    (hvw : g.Produces v w) (p : List (Symbol T g.NT)) :
+    g.Produces (p ++ v) (p ++ w) :=
+  match hvw with | ⟨r, hr⟩ => ⟨r, hr.left, hr.right.append_left p⟩
```
Comment (eric-wieser) [inline Mathlib/Computability/ContextFreeGrammar.lean:165]: Even more concise
```suggestion
  match hvw with | ⟨r, hmem, hr⟩ => ⟨r, hmem, hr.append_left p⟩
```

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: It's supposed to do what it says on the tin. Sometimes you have a lot of `def`s (eg you just defined a new space and are defining a bunch of maps from it) but only a few are important. Those are the ones that should be in the module doc.

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: So here I should mention `ContextFreeGrammar.Produces`, `ContextFreeGrammar.Derives`, `ContextFreeGrammar.Generates`, `ContextFreeGrammar.language` and `Language.IsContextFree` as well?

Comment (eric-wieser) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: I think you should have
```
* `ContextFreeGrammar`: A context-free grammar.
* `ContextFreeGrammar.language g`: The language generated by the given context-free grammar `g`
* `Language.IsContextFree l`: The proposition that the language `l` is generated by some `ContextFreeGrammar`
```
Part of the problem with the current version is that that you are using the description of `language` to describe `IsContextFree`.

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: Elaborating on what @YaelDillies said, why not `ContextFreeGrammar.Produces` and `ContextFreeGrammar.Derives` and `ContextFreeGrammar.Generates` as main definitions, too?

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: Possibly I misunderstood "what it says on the tin".

Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: I think of `Produces`/`Derives`/`Generates` all as secondary definitions to `ContextFreeGrammar`.

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: Isn't `ContextFreeGrammar.language` a secondary definition to `Language.IsContextFree` then?

Comment (eric-wieser) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: No, because without that definition you would never have a reason to talk about `ContectFreeGrammar` at all.

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: I don't understand the philosophy here. In my point of view `Language.IsContextFree` is built on top of `ContextFreeGrammar.language` as well as `ContextFreeGrammar.language` is built on top of `ContextFreeGrammar.Generates` and so on.

Comment (eric-wieser) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: It's not about what things are built upon; if I tell you that I have constructed a `ContextFreeGrammar`, what would you guess is the most likely thing I want to do with it? My guess is that the answer is "look at the language it defines".

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:16]: Yes!

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: I better do this PR without `Language.IsContextFree` as it should be about prefix and postfix.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 4]
```diff
@@ -142,4 +158,36 @@ lemma Derives.eq_or_tail {u w : List (Symbol T g.NT)} (huw : g.Derives u w) :
...
+
+/-- Add extra prefix to context-free deriving. -/
+lemma Derives.append_right {v w : List (Symbol T g.NT)}
+    (hvw : g.Derives v w) (p : List (Symbol T g.NT)) :
+    g.Derives (v ++ p) (w ++ p) := by
+  induction hvw with
+  | refl => rfl
+  | tail _ last ih =>
+    apply trans_produces ih
+    exact last.append_right p
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:191]:
```suggestion
  | tail _ last ih => ih.trans_produces $ last.append_right p
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 5]
```diff
@@ -142,4 +158,36 @@ lemma Derives.eq_or_tail {u w : List (Symbol T g.NT)} (huw : g.Derives u w) :
...
+
+/-- Add extra prefix to context-free deriving. -/
+lemma Derives.append_left {v w : List (Symbol T g.NT)}
+    (hvw : g.Derives v w) (p : List (Symbol T g.NT)) :
+    g.Derives (p ++ v) (p ++ w) := by
+  induction hvw with
+  | refl => rfl
+  | tail _ last ih =>
+    apply trans_produces ih
+    exact last.append_left p
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:181]:
```suggestion
  | tail _ last ih => ih.trans_produces $ last.append_left p
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 6]
```diff
@@ -142,4 +158,32 @@ lemma Derives.eq_or_tail {u w : List (Symbol T g.NT)} (huw : g.Derives u w) :
...
+  | refl => rfl
+  | tail _ last ih => ih.trans_produces $ last.append_left p
+
+/-- Add extra prefix to context-free deriving. -/
+lemma Derives.append_right {v w : List (Symbol T g.NT)}
+    (hvw : g.Derives v w) (p : List (Symbol T g.NT)) :
+    g.Derives (v ++ p) (w ++ p) := by
+  induction hvw with
+  | refl => rfl
+  | tail _ last ih => ih.trans_produces $ last.append_right p
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:187]:
```suggestion
  | tail _ last ih => exact ih.trans_produces $ last.append_right p
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 7]
```diff
@@ -142,4 +158,32 @@ lemma Derives.eq_or_tail {u w : List (Symbol T g.NT)} (huw : g.Derives u w) :
...
+    g.Produces (v ++ p) (w ++ p) :=
+  match hvw with | ⟨r, hrmem, hrvw⟩ => ⟨r, hrmem, hrvw.append_right p⟩
+
+/-- Add extra prefix to context-free deriving. -/
+lemma Derives.append_left {v w : List (Symbol T g.NT)}
+    (hvw : g.Derives v w) (p : List (Symbol T g.NT)) :
+    g.Derives (p ++ v) (p ++ w) := by
+  induction hvw with
+  | refl => rfl
+  | tail _ last ih => ih.trans_produces $ last.append_left p
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:179]:
```suggestion
  | tail _ last ih => exact ih.trans_produces $ last.append_left p
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by eric-wieser — APPROVED** [review]
bors merge
